Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: CARDIOTHORACIC
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___
 
Chief Complaint:
Syncope
 
Major Surgical or Invasive Procedure:
___
Coronary artery bypass grafts x3 (LIMA-LAD,
SVG-OM, SVG-PDA)  ; Endovascular saphenous vein harvest LLE

 
History of Present Illness:
___ y/o M with a hx of NIDDM,
HTN, Gout, who presented to ___ with syncope,
transferred to ___ given finding of multivessel CAD.

He had been in the ___ ___.  After
return, he had 3 days of abdominal cramping and nonbloody
diarrhea, then presented to ___ on ___ following an 
episode
of syncope.  He also briefly had chest pain prior to 
syncopizing.
The wife had reported a question of seizure like activity and
urinary incontinence after he passed out.

He was admitted to ___, where workup was notable for a
normal Abdominal CT and negative C-Diff testing.  Neuro was
consulted for the ? of seizure like activity, and EEG, Head CT,
and MRI were unremarkable.

Workup there notable for EKG with new lateral ST depressions and
anterolateral T-wave abnormalities.  Troponins were serially
negative. Echo showed depressed LVEF of 40%. Diagnostic cath was
performed ___ (R radial access), demonstrating 3 vessel 
disease.
The possibility of elective referral for CT surgery given his
lack of symptoms prior to presenting was considered, but given
syncope he was transferred to ___.

Of note, initial ___ on presentation to Clinic, Cr 2.09, which
downtrended to 1.1 with IV fluids.

On arrival to ___, patient without complaint.  He was seen
immediately by C-Surg who recommended CABG ___.

 
Past Medical History:
- CAD
- DM
- HTN
- Gout
- OSA not compliant with CPAP
- Hepatitis C s/p Harvoni ___ 
 
 
Social History:
___
Family History:
Father died in his ___ due to MI
 
Physical Exam:
ADMISSION EXAM:
VS: 98.1, 163 / 111, HR 97, RR 18, 97 RA   
GENERAL: WDWN male in NAD. Oriented x3. Mood, affect 
appropriate.
HEENT: NCAT. Sclera anicteric.
NECK: Supple
CARDIAC:  RRR, normal S1, S2. No murmurs/rubs/gallops
LUNGS: No chest wall deformities, scoliosis or kyphosis. Resp
were unlabored, no accessory muscle use. No crackles, wheezes or
rhonchi.  
ABDOMEN: Soft, NTND. Obese. 
EXTREMITIES: No c/c/e. No femoral bruits. R radial cath access
site intact.  
PULSES: Distal pulses palpable and symmetric
.
Vital Signs and Intake/Output:
___ ___ Temp: 98.3 PO BP: 100/68 R Sitting HR: 71 RR: 18 
O2
sat: 92% O2 delivery: Ra 
___ ___
I/O ___
Wt: 133.6 kg
--------------- --------------- --------------- ---------------
Physical Examination:
General/Neuro:  NAD  [x] A/O x3 [x] non-focal [x] 
Cardiac: RRR [x]  Irregular []  Nl S1 S2 [x]
Lungs: CTA with decreased bases[x] No resp distress [x]
Abd:  NBS [x]Soft [x] ND [x] NT [x]
Extremities:  1+ BLE edema [x] Pulses  doppler [] palpable, 1+
[x]  
Wounds: Sternal: CDI [] no erythema or drainage []
                 Sternum stable [x] Prevena [x]
        Leg: Bilat EVH CDI [x] no erythema or drainage [x]

 
Pertinent Results:
ADMISSION LABS:
___ 08:00PM BLOOD WBC-5.6 RBC-4.80 Hgb-13.6* Hct-40.5 
MCV-84 MCH-28.3 MCHC-33.6 RDW-14.5 RDWSD-44.0 Plt ___
___ 08:00PM BLOOD Neuts-56.4 ___ Monos-6.4 Eos-4.8 
Baso-0.5 Im ___ AbsNeut-3.16 AbsLymp-1.73 AbsMono-0.36 
AbsEos-0.27 AbsBaso-0.03
___ 08:00PM BLOOD ___ PTT-30.0 ___
___ 08:00PM BLOOD Glucose-82 UreaN-17 Creat-1.1 Na-138 
K-4.1 Cl-100 HCO3-25 AnGap-13
___ 08:00PM BLOOD ALT-50* AST-36 AlkPhos-86 TotBili-0.4
___ 08:00PM BLOOD %HbA1c-9.3* eAG-220*
___ 08:00PM BLOOD CK-MB-2 cTropnT-<0.01
___ 08:00PM BLOOD Albumin-3.8 Calcium-9.0 Phos-3.2 Mg-1.6

REPORTS:
CXR ___
No acute cardiopulmonary abnormality
.
___
Conclusions   
Pre-CPB:
 The left atrium is normal in size. No atrial septal defect is 
seen by 2D or color Doppler. There is moderate symmetric left 
ventricular hypertrophy. The left ventricular cavity is 
moderately dilated. Overall left ventricular systolic function 
is moderately depressed (LVEF= 35-40 %). The calculated cardiac 
output by continuity equation is 6.4L/min. Right ventricular 
chamber size and free wall motion are normal. 

 The ascending aorta is mildly dilated. The descending thoracic 
aorta is mildly dilated. There are simple atheroma in the 
descending thoracic aorta. No thoracic aortic dissection is 
seen. The aortic valve leaflets (3) appear structurally normal 
with good leaflet excursion. No aortic regurgitation is seen. 

 The mitral valve leaflets are mildly thickened. Trivial mitral 
regurgitation is seen. 

 Dr. ___ was notified in person of the results at time of study. 


 Post-CPB:
 Biventricular systolic function is preserved. The estimated 
LVEF is 40%. The calculated cardiac output is L/min. 

 The MR remains trace. Other valvular function remains 
unchanged. There is no evidence of aortic dissection.    
   I certify that I was present for this procedure in compliance 
with ___ regulations.

Interpretation assigned to ___, MD, Interpreting physician  
.

___ 05:45AM BLOOD Hct-33.3*
___ 08:00PM BLOOD WBC-5.6 RBC-4.80 Hgb-13.6* Hct-40.5 
MCV-84 MCH-28.3 MCHC-33.6 RDW-14.5 RDWSD-44.0 Plt ___
___ 02:18AM BLOOD ___ PTT-33.5 ___
___ 01:40AM BLOOD ___ PTT-29.7 ___
___ 05:45AM BLOOD UreaN-33* Creat-1.1 K-3.7
___ 10:54AM BLOOD Glucose-144* UreaN-24* Creat-1.3* Na-138 
K-4.4 Cl-100 HCO3-23 AnGap-15
___ 05:45AM BLOOD Mg-2.4
___ 08:00PM BLOOD %HbA1c-9.3* eAG-220*
 
Brief Hospital Course:
___ with a h/o HTN and DM who presents with diarrheal illness, 
syncope, and ___, found to have multivessel coronary disease.

#HFrEF
#Multivessel CAD
EKG obtained in the setting of syncope showed new ST depressions 
and T wave changes. His TTE showed an EF of 40%.  He therefore 
underwent LHC via right radial showing multivessel disease. 
Troponins were serially negative at ___.  He was 
transferred to ___ and underwent CABG on ___.  He was treated 
with aspirin, atorvastatin, Metoprolol.

#Syncope:  Patient presented with syncope in the setting of 
acute diarrheal illness with dehydration and acute renal 
failure.  Apparently seizure like activity was noted, but EEG, 
MRI, and CT head were unremarkable at OSH.

#Acute diarrheal illness:  Symptoms improved, and he had no 
leukocytosis, fever, or systemic toxicity.  C-diff and stool 
studies negative at OSH.  Likely traveler's diarrhea given 
recent trip to ___.

#Acute renal failure on CKD: This resolved with IVF at the OSH.  
Stable on admission to ___.

#Diabetes: A1C 9.3%, did insulin sliding scale.

#Gout: Continue home allopurinol
.
CARDIAC SURGERY COURSE ___
The patient was brought to the Operating Room on ___ where 
the patient underwent CABG x 3 ___.  Overall the 
patient tolerated the procedure well and post-operatively was 
transferred to the CVICU in stable condition for recovery and 
invasive monitoring.  
 POD 1 found the patient extubated, alert and oriented and 
breathing comfortably.  The patient was neurologically intact 
and hemodynamically stable.  Beta blocker was initiated and the 
patient was gently diuresed toward the preoperative weight.  The 
patient was transferred to the telemetry floor for further 
recovery.  Chest tubes and pacing wires were discontinued 
without complication.  Metformin resumed as well as Lantus with 
sliding scale for glucose management.  The patient was evaluated 
by the Physical Therapy service for assistance with strength and 
mobility.  By the time of discharge on POD 5 the patient was 
ambulating freely, the wound was healing and pain was controlled 
with oral analgesics.  The patient was discharged ___ 
___ in good condition with appropriate follow up 
instructions.
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. glimepiride 4 mg oral DAILY 
2. valsartan-hydrochlorothiazide 320-25 mg oral DAILY 
3. Omeprazole 20 mg PO DAILY 
4. Allopurinol ___ mg PO DAILY 
5. MetFORMIN (Glucophage) 1000 mg PO BID 

 
Discharge Medications:
1.  Acetaminophen 1000 mg PO Q6H  
2.  amLODIPine 5 mg PO DAILY  
3.  Aspirin EC 81 mg PO DAILY  
4.  Atorvastatin 80 mg PO QPM  
5.  Docusate Sodium 100 mg PO BID  
6.  Furosemide 40 mg PO DAILY Duration: 10 Days  
7.  GuaiFENesin ER 1200 mg PO Q12H Duration: 5 Days  
8.  HYDROmorphone (Dilaudid) ___ mg PO Q4H:PRN Pain - Moderate 
RX *hydromorphone 2 mg ___ tablet(s) by mouth every four (4) 
hours Disp #*60 Tablet Refills:*0 
9.  Glargine 30 Units Breakfast
Insulin SC Sliding Scale using REG Insulin 
10.  Lisinopril 2.5 mg PO DAILY  
11.  Metoprolol Tartrate 75 mg PO TID  
12.  Potassium Chloride 20 mEq PO DAILY Duration: 10 Days  
13.  MetFORMIN (Glucophage) 500 mg PO DAILY  
14.  Allopurinol ___ mg PO DAILY  
15.  Omeprazole 20 mg PO DAILY  
16. HELD- glimepiride 4 mg oral DAILY  This medication was held. 
Do not restart glimepiride until instructed by ___

 
Discharge Disposition:
Extended Care
 
Facility:
___
 
___ Diagnosis:
Diabetes Mellitus Type 2 (non-insulin dependent)
Hypertension
Gout 
Obstructive sleep apnea (non-compliant with CPAP)
Past Surgical History: None 
Past Cardiac Procedures: None 

 
Discharge Condition:
Alert and oriented x3, non-focal
 Ambulating, deconditioned
 Sternal pain managed with oral analgesics
 Sternal Incision - healing well, no erythema or drainage

Edema 1+

 
Discharge Instructions:
Please shower daily -wash incisions gently with mild soap, no 
baths or swimming, look at your incisions daily
 Please - NO lotion, cream, powder or ointment to incisions
 Each morning you should weigh yourself and then in the evening 
take your temperature, these should be written down on the chart
 No driving for approximately one month and while taking 
narcotics

Clearance to drive will be discussed at follow up appointment 
with surgeon
 No lifting more than 10 pounds for 10 weeks

Encourage full shoulder range of motion, unless otherwise 
specified
 **Please call cardiac surgery office with any questions or 
concerns ___. Answering service will contact on call 
person during off hours**
 
Followup Instructions:
___